US07589123B2
(E)-2-Benzyl-5-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)-1-phenylpent-4-ene-1,3-dione (204 mg, 0.41 mmol) was dissolved in anhydrous THF (5 ml) and stirred at room temperature under a nitrogen atmosphere. TBAF (0.14 ml, 0.49 mmol) was added (yellow/green solution goes deep red colour) and the mixture was stirred overnight at room temperature. After this time the solvents were removed in vacuo to leave a residue which was purified on silica gel column using dichloromethane/diethyl ether (1:0 to 10:1) to give (E)-2-benzyl-5-(4-hydroxy-3-methoxyphenyl)-1-phenylpent-4-ene-1,3-dione (134 mg, 85%) as a light green foam: 1H NMR (400 MHz, CDCl3) δ 3.34 (1H, dd, J=14.0, 7.2 Hz, CH2), 3.50 (1H, dd, J=14.0, 7.2 Hz, CH2), 3.92 (3H, s, OCH3), 4.95 (1H, t, J=7.2 Hz, H-2), 5.96 (1H, brs, OH), 6.68 (1H, d, J=16.0 Hz, H-4), 6.90 (1H, d, J=8.0 Hz, H-5′), 6.95 (1H, d, J=2.0 Hz, H-2′), 7.04 (1H, dd, J=8.0, 2.0 Hz, H-6′), 7.16-7.28 (5H, m, 5×ArH), 7.44 (2H, brt, J=8.0 Hz, 2×H-5″, H-3″, H-6), 7.53 (1H, d, J=16.0 Hz, H-5), 7.52-7.57 (1H, m, H-4″), 7.96-7.98 (2H, m, H-2″, H-6″) ppm.

reactant | (E)-2-Benzyl-5-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)-1-phenylpent-4-ene-1,3-dione | 0.41 mmol, 204 mg | C(C1=CC=CC=C1)C(C(=O)C1=CC=CC=C1)C(\C=C\C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)OC)=O | C31H36O4Si
reactant | TBAF | 0.49 mmol, 0.14 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (E)-2-benzyl-5-(4-hydroxy-3-methoxyphenyl)-1-phenylpent-4-ene-1,3-dione | 134 mg, 85% | C(C1=CC=CC=C1)C(C(=O)C1=CC=CC=C1)C(\C=C\C1=CC(=C(C=C1)O)OC)=O | C25H22O4
